US08008487B2
Preparation of 1-(6-Chloropyridin-2-yloxy)-2-propylamine (Compound 130)
Sodium hydride (60 wt. percent oil dispersion, 560 mg, 14 mmol) was added to a stirred solution of 2-aminopropanol (1.2 mL, 14 mmol) in THF (25 mL). After 30 minutes, 2,6-dichloropyridine (2.0 g, 14 mmol) was added and the reaction heated at reflux for 8 hours. After cooling, the reaction was quenched with aqueous 1N hydrochloric acid and washed with ether (3×30 mL). The pH of the aqueous phase was then raised to 10-11 with 50 wt. percent aqueous sodium hydroxide and extracted with ether (3×50 mL). The organics were dried (MgSO4), filtered and solvent removed in vacuo leaving 2.2 g of a yellow oil.

reactant | Sodium hydride | 14 mmol, 560 mg | [H-].[Na+]
reactant | 2-aminopropanol | 14 mmol, 1.2 mL | NC(CO)C | C3H9NO
reactant | 2,6-dichloropyridine | 14 mmol, 2.0 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(6-Chloropyridin-2-yloxy)-2-propylamine | 2.2 g | ClC1=CC=CC(=N1)OCC(C)N | C8H11ClN2O
